US06034248
1-[(1R,2S)-2-(2-Fluorophenyl)-2,3-dihydroxy-1-methyl propyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone (440 mg) was dissolved in a mixture of ethyl acetate and tetrahydrofuran (1:2, 30 ml), to which methanesulfonyl chloride (0.18 g) and triethylamine (0.16 g) were added dropwise at ice-bath temperature. The reaction solution was stirred at 0° C. for 30 minutes and washed with water (15 ml×2) and a saturated aqueous solution of sodium chloride (15 ml) successively. The organic layer was dried over magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel chromatography (eluent:hexane/ethyl acetate=1/4) to give 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy -1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H) -imidazolone (330 mg) as a colorless crystalline powder.

reactant | 1-[(1R,2S)-2-(2-Fluorophenyl)-2,3-dihydroxy-1-methyl propyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 440 mg | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)N1N=NN=C1)=O)(CO)O | C20H19FN6O3
reactant | methanesulfonyl chloride | 0.18 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2-hydroxy-3-methanesulfonyloxy -1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H) -imidazolone | 330 mg | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)N1N=NN=C1)=O)(COS(=O)(=O)C)O | C21H21FN6O5S
